US05530002
2.2. 4-[2-(5-Methoxy-1H-inden-3-yl)ethyl]-1-(naphth-1-yl)piperazine
0.76 g (0.02 mol) of lithium aluminum hydride are placed under an argon atmosphere in a 500 ml round-bottomed flask and covered with diethyl ether. A Soxhlet extractor containing 2.0 g (0.005 mol) of 4-[(5-methoxy-1H-inden-3-yl)acetyl]-1-(naphth-1-yl)piperazine is placed on top of the flask, and the mixture is reacted with refluxing of the ether for 30 h. The reaction mixture is treated with 1.6 ml of 10% aqueous sodium potassium tartrate solution and filtered. The solid is washed with diethyl ether and then with tetrahydrofuran, and the filtrate is evaporated under reduced pressure.

reactant | lithium aluminum hydride | 0.02 mol, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[(5-methoxy-1H-inden-3-yl)acetyl]-1-(naphth-1-yl)piperazine | 0.005 mol, 2.0 g | COC=1C=C2C(=CCC2=CC1)CC(=O)N1CCN(CC1)C1=CC=CC2=CC=CC=C12 | C26H26N2O2
reactant | sodium potassium tartrate | 1.6 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[2-(5-Methoxy-1H-inden-3-yl)ethyl]-1-(naphth-1-yl)piperazine | COC=1C=C2C(=CCC2=CC1)CCN1CCN(CC1)C1=CC=CC2=CC=CC=C12 | C26H28N2O
